US05332739
10 g of potassium carbonate was added to 30 ml of a methyl ketone solution containing 15.9 g of p-chlorophenol, and the solution was then heated with stirring at 60° C. for 1 hour. Afterward, 30 ml of a methyl ethyl ketone solution containing 50 g of 1,3-dibromopropane was added dropwise; After the addition, the solution was heated under reflux for 3 hours. The reaction solution was then cooled and a precipitate was removed therefrom, and the solution was evaporated to dryness under reduced pressure to obtain 23.2 g of 4-chlorophenoxypropyl bromide.

reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl ketone | 30 ml | CC(=O)C | C3H6O
reactant | p-chlorophenol | 15.9 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | 1,3-dibromopropane | 50 g | BrCCCBr | C3H6Br2
solvent | methyl ethyl ketone | 30 ml | C(C)C(=O)C | C4H8O
product | 4-chlorophenoxypropyl bromide | 23.2 g | ClC1=CC=C(OCCCBr)C=C1 | C9H10BrClO
